US04294986
Preparation of 3-[3-chloro-4-(phenethyloxy)phenyl]-1,1,3-trimethylurea
A mixture of sodium hydride (0.48 g; 0.01 mol-as 50% dispersion in oil) and THF (25 ml) is prepared and maintained under a nitrogen atmosphere. Then 3-[3-chloro-4-(phenethyloxy)phenyl]-1,1-dimethylurea (3.19 g; 0.01 mol) is added to the above mixture. Hydrogen is evolved and a thick paste forms. After about 15 minutes methyl iodide (1.4 g; 0.01 mol) is added and the reaction mixture stirred for two hours at room temperature. After two hours reaction time the paste redissolves. Next, most of the THF is removed under vacuum, the residue dissolved in methylene chloride. The methylene chloride solution is washed with water, dried over sodium sulfate and evaporated to afford the title product as an oil.

reactant | sodium hydride | 0.01 mol, 0.48 g | [H-].[Na+]
reactant | 3-[3-chloro-4-(phenethyloxy)phenyl]-1,1-dimethylurea | 0.01 mol, 3.19 g | ClC=1C=C(C=CC1OCCC1=CC=CC=C1)NC(N(C)C)=O | C17H19ClN2O2
reactant | Hydrogen | [H][H] | H2
reactant | methyl iodide | 0.01 mol, 1.4 g | CI | CH3I
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-[3-chloro-4-(phenethyloxy)phenyl]-1,1,3-trimethylurea | ClC=1C=C(C=CC1OCCC1=CC=CC=C1)N(C(N(C)C)=O)C | C18H21ClN2O2
